US06632826B1
2-tert-Butoxycarbonylamino-3-(4-fluoro-phenylsulfanyl)-propionic Acid Methyl Ester
A stirred solution of 4-fluorothiophenol (1.24 g, 9.65 mmol) in N,N-dimethyl formamide (10 ml) was treated with sodium hydride (240 mg, 9.37 mmol) and the reaction mixture was stirred at room temperature for 30 minutes. 2-tert-Butoxycarbonylamino-3-(toluene-4-sulfonyloxy)-propionic acid methyl ester (3 g, 8.04 mmol) in N,N dimethyl formamide (ml) was added, the resulting mixture was stirred for two hours and then concentrated in vacuo. The residue was dissolved in ethyl acetate (100 ml) and washed with water (2*80 ml) and brine. The organic layer was dried (anhydrous magnesium sulfate) and concentrated in vacuo to give, after purification by flash chromatography on silica gel, 2-tert-butoxycarbonylamino-3-(4-fluoro-phenylsulfanyl)-propionic acid methyl ester (2.28 g, 83%) as a yellow oil.

reactant | 4-fluorothiophenol | 9.65 mmol, 1.24 g | FC1=CC=C(C=C1)S | C6H5FS
reactant | sodium hydride | 9.37 mmol, 240 mg | [H-].[Na+]
reactant | 2-tert-Butoxycarbonylamino-3-(toluene-4-sulfonyloxy)-propionic acid methyl ester | 8.04 mmol, 3 g | COC(C(COS(=O)(=O)C1=CC=C(C=C1)C)NC(=O)OC(C)(C)C)=O | C16H23NO7S
solvent | N,N-dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-tert-Butoxycarbonylamino-3-(4-fluoro-phenylsulfanyl)-propionic Acid Methyl Ester | COC(C(CSC1=CC=C(C=C1)F)NC(=O)OC(C)(C)C)=O | C15H20FNO4S
